US07838675B2
(i) 3-({6-Chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)propan-1-ol
To a solution of 4,6-dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step ii), 3 g) and propane-1,3-diol (1.1 g) in THF (50 ml) was added NaH (390 mg) slowly and the reaction was then allowed to stir at room temperature for 18 h. The reaction mixture was then partitioned between DCM (150 ml) and H2O (100 ml). The organics were separated and the aqueous layer was re-extracted with DCM (2×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give the subtitle compound as a yellow oil. Yield 2.9 g

reactant | 4,6-dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | propane-1,3-diol | 1.1 g | C(CCO)O | C3H8O2
reactant | NaH | 390 mg | [H-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-({6-Chloro-2-[(2,3-difluorobenzyl)thio]pyrimidin-4-yl}oxy)propan-1-ol | ClC1=CC(=NC(=N1)SCC1=C(C(=CC=C1)F)F)OCCCO | C14H13ClF2N2O2S
